US04246268
To a solution of 60 g (0.22 mole) of 1-naphthyl 4-piperidyl ketone hydrochloride in 500 ml of methanol, 35 g (0.65 mole) of potassium borohydride is added gradually while stirred in an ice bath and the mixture reacted for 18 hours. The mixture is concentrated in vacuo, the residue partitioned between chloroform and water, and the organic phase dried over magnesium sulfate, filtered and the solvent removed in vacuo to yield α-(1-naphthyl)-4-piperidinemethanol, which is dissolved in chloroform and an excess of dry HCl bubbled into the solution. The resulting precipitate is recrystallized from methanol/butanone to yield α-(1-naphthyl)-4-piperidinemethanol hydrochloride. M.P. 219°-21°.

reactant | 1-naphthyl 4-piperidyl ketone hydrochloride | 0.22 mole, 60 g | Cl.N1CCC(CC1)C(=O)C1=CC=CC2=CC=CC=C12
reactant | potassium borohydride | 0.65 mole, 35 g | [BH4-].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | α-(1-naphthyl)-4-piperidinemethanol | C1(=CC=CC2=CC=CC=C12)C(O)C1CCNCC1 | C16H19NO
